US07049444B2
N-(3-{6-Methyl-3-[3-(3-methyl-2-thienyl)propyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide
To a solution of N-(3-{6-methyl-3-[3-(3-methyl-2-thienyl)propanoyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide (Preparation 130, 150 mg, 0.358 mmol) in anhydrous tetrahydrofuran (10 ml) under a nitrogen atmosphere at 0° C. was added dropwise lithium aluminium hydride (1.0M solution in tetrahydrofuran, 0.72 ml, 0.72 mmol) and the reaction mixture was stirred at room temperature overnight. The rapidly stirred reaction mixture was treated sequentially with water (0.75 ml), sodium hydrogen carbonate (750 mg) and ethyl acetate (15 ml). After 15 min, the reaction mixture was filtered and concentrated in vacuo to afford 140 mg of a colourless oil. This was purified by chromatography using a Biotage Flash 12™ cartridge packed with silica gel (8 g) eluting with hexane:ethyl acetate (100:0 to 0:100 over 30 min) and then with ethyl acetate:methanol (100:0 to 0:100 over 5 min) to afford the title compound as a colourless oil (74 mg, 50%).

reactant | N-(3-{6-methyl-3-[3-(3-methyl-2-thienyl)propanoyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 0.358 mmol, 150 mg | CC1(C2CN(CC12)C(CCC=1SC=CC1C)=O)C=1C=C(C=CC1)NS(=O)(=O)C | C21H26N2O3S2
reactant | lithium aluminium hydride | 0.72 mmol, 1.0M, 0.72 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.75 ml | O | H2O
reactant | sodium hydrogen carbonate | 750 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-{6-Methyl-3-[3-(3-methyl-2-thienyl)propyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 140 mg | CC1(C2CN(CC12)CCCC=1SC=CC1C)C=1C=C(C=CC1)NS(=O)(=O)C | C21H28N2O2S2
